US05272270
3,4-Dimethoxystyrene oxide
Mixture: 27.2 g (160 mmol) of 3,4-dimethoxystyrene, 600 ml of dichloromethane, 220 ml of sodium hydrogen carbonate solution, 7.1 g of benzyltributylammonium chloride, 1.15 g (3.5 mmol) of nickel-salene, 900 ml of 13% strength sodium hypochlorite solution.

reactant | 3,4-dimethoxystyrene | 160 mmol, 27.2 g | COC=1C=C(C=C)C=CC1OC | C10H12O2
reactant | sodium hydrogen carbonate | 220 ml | C(O)([O-])=O.[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
catalyst | benzyltributylammonium chloride | 7.1 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
catalyst | nickel | 3.5 mmol, 1.15 g | [Ni] | Ni
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 3,4-Dimethoxystyrene oxide | COC=1C=C(C2CO2)C=CC1OC | C10H12O3
